US07144911B2
The mixture of N-(2-methylamino-2-oxoethyl)-N-(phenylmethyl)-glycine methylamide (3.09 g, 11.2 mmol) in MeOH (30 mL) was added 10% Pd/C (0.15 g). The mixture was stirred and heated to 40° C. under 40 psi H2 for 10 h, filtered and concentrated in vacuo to yield N-(2-methylamino-2-oxoethyl)-glycine methylamide in quantitative yield (1.76 g). 1H NMR (CDCl3): δ 6.95(br s, 2H), 3.23 (s, 4H), 2.79 (d, J=6.0, 4.8 Hz), 2.25(br s 1H); MS (ESI) m/e 160(M+H+)

reactant | N-(2-methylamino-2-oxoethyl)-N-(phenylmethyl)-glycine methylamide | 11.2 mmol, 3.09 g | CNC(CN(CC1=CC=CC=C1)CC(=O)NC)=O | C13H19N3O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | N-(2-methylamino-2-oxoethyl)-glycine methylamide | quantitative yield | CNC(CNCC(=O)NC)=O | C6H13N3O2
